US05958918
C. N-Cbz-7-aminonaphthalene-2-sulfonic acid-[1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide
The title compound is prepared from 4-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)thiophene-2-carbonitrile hydrochloride as described in EXAMPLE 125, Part C using N-Cbz-7-aminonaphthalene-2-sulfonyl chloride in place of 7-methoxynaphthalene-2-sulfonyl chloride. The crude product is purified by column chromatography eluting with a gradient of 10% EtOAc/CH2Cl2 to 25% EtOAc/CH2Cl2 to provide the title compound as a solid.

reactant | 4-(3-(S)-amino-2-oxopyrrolidin-1-ylmethyl)thiophene-2-carbonitrile hydrochloride | Cl.N[C@@H]1C(N(CC1)CC=1C=C(SC1)C#N)=O
reactant | N-Cbz-7-aminonaphthalene-2-sulfonyl chloride | C(=O)(OCC1=CC=CC=C1)NC1=CC=C2C=CC(=CC2=C1)S(=O)(=O)Cl | C18H14ClNO4S
product | N-Cbz-7-aminonaphthalene-2-sulfonic acid-[1-(5-cyanothiophen-3-ylmethyl)-2-oxopyrrolidin-3-(S)-yl]amide | C(#N)C1=CC(=CS1)CN1C([C@H](CC1)NS(=O)(=O)C1=CC2=CC(=CC=C2C=C1)NC(=O)OCC1=CC=CC=C1)=O | C28H24N4O5S2
